US08026257B2
5-(Trifluoromethyl)-1H-indazole-7-carbaldehyde.
(5-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methanol To a solution of 5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde (1 g, 2.9 mmol) in ethanol (15 mL) at 0° C. was added sodium borohydride (0.055 g, 1.45 mmol). The ice bath was removed and stirring continued for 15 min. The reaction was cooled to 0° C. and quenched by addition of saturated ammonium chloride. The reaction was concentrated to remove most of the ethanol and poured into diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated to give 0.985 g (98%) as an oil which solidified upon standing. 1H-NMR (CDCl3, 500 MHz) δ 8.08 (s, 1H), 8.00 (s, 1H), 7.57 (d, J=1.2 Hz, 1H), 5.96 (s, 2H), 5.07 (s, 2H), 3.53 (m, 2H), 3.34 (bs, 1H), 0.85 (m, 2H), −0.08 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 139.0, 135.1, 125.9, 125.3, 124.52 (q, J=272 Hz), 124.51, 124.2 (q,J=33 Hz), 119.3, 80.1, 66.7, 62.6, 17.8, −1.5.

reactant | (5-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methanol | FC(C=1C=C2C=NN(C2=C(C1)CO)COCC[Si](C)(C)C)(F)F | C15H21F3N2O2Si
reactant | 5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde | 2.9 mmol, 1 g | FC(C=1C=C2C=NN(C2=C(C1)C=O)COCC[Si](C)(C)C)(F)F | C15H19F3N2O2Si
reactant | sodium borohydride | 1.45 mmol, 0.055 g | [BH4-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-(Trifluoromethyl)-1H-indazole-7-carbaldehyde | FC(C=1C=C2C=NNC2=C(C1)C=O)(F)F | C9H5F3N2O
